US06037356
10. [N,N'-Di(tert-butoxycarbonyl)]3-amino-1-propoxyguanidine
A mixture of [N,N'-di(tert-butoxycarbonyl)]3-(benzyloxycarbonylamino)-1-propoxyguanidine (760 mg, 1.7 mmol), as prepared in the preceding step, and 10% Pd/C (80 mg) in ethanol (20 mL) and tetrahydrofuran (20 mL) was hydrogenated under hydrogen (balloon) for 30 min. The catalyst was removed by filtration through Celite, the filtrate was concentrated in vacuo, and the residue was purified by Waters Sep-Pak (10 g, 95:5 methylene chloride:methanol saturated with ammonia) to give the title compound as a colorless oil (160 mg, 28%). 1H-NMR (300 MHz, CDCl3) δ4.12 (t, J=6.1 Hz, 2H), 2.85 (t, J=6.7 Hz, 2H), 1.84 (pentet, J=6.2 Hz, 2H), 1.50 (s, 9H), 1.48 (s, 9H).

reactant | [N,N'-di(tert-butoxycarbonyl)]3-(benzyloxycarbonylamino)-1-propoxyguanidine | 1.7 mmol, 760 mg | C(C)(C)(C)OC(=O)N(C(=N)N(NC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)OCCC | C22H34N4O7
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | [N,N'-Di(tert-butoxycarbonyl)]3-amino-1-propoxyguanidine | 160 mg, 28% | C(C)(C)(C)OC(=O)N(C(=N)N(N)C(=O)OC(C)(C)C)OCCC | C14H28N4O5
